US07173058B2
To a solution of 3-(3,4-bis-difluoromethoxy-phenyl)-3-[7-(cyclopropanecarbonyl-amino)-1-oxo-1,3-dihydro-isoindol-2-yl]-propionic acid methyl ester (2.0 g, 4 mmol) in tetrahydrofurane (20 ml) was added NaOH (0.8 ml of 10 N) at room temperature. The solution was stirred overnight at room temperature. The resulted suspension was filtered to get a white solid. The solid was dissolved in water (30 ml) and added conc. HCl dropwise until the pH is about 4. The resulted mixture was extracted with CH2Cl2 (3×40 ml). The organic layer was dried over Na2SO4, filtered and concentrated to give 3-(3,4-bis-difluoromethoxy-phenyl)-3-[7-(cyclopropanecarbonyl-amino)-1-oxo-1,3-dihydro-isoindol-2-yl]-propionic acid as a white solid (1.4 g, 70%): mp, 94–96° C.; 1H NMR (CDCl3) δ 0.86–0.93 (m, 2H, cyclopropyl ring CH2), 1.06–1.12 (m, 2H, cyclopropyl ring CH2), 1.65–1.71(m, 1H, cyclopropyl ring CH), 3.13 (dd, J=6, 16 Hz, 1H, CHHCO), 3.32 (dd, J=9, 16 Hz, 1H, CHHCO), 4.15 (d, J=15 Hz, 1H, CHHN), 4.36 (d, J=15 Hz, 1H, CHHN), 5.78–5.84 (m, 1H, CHN), 6.21 (t, JH-F=75 Hz, 1H, OCF2H), 6.24 (t, JH-F=75 Hz, 1H, OCF2H), 7.01 (d, J=7.5 Hz, 1H, Ar), 7.26–7.28 (m, 3H, Ar), 7.44 (t, J=7.5 Hz, 1H, Ar), 8.43 (d, J=7.5 Hz, 1H, Ar), 10.42 (s, 1H, NHCO); 13C NMR (CDCl3):8.35, 8.38, 16.14,36.55,47.00, 51.29,99.24, 111.36, 111.42, 115.60, 116.84, 117.02, 118.03, 119.74, 119.79, 121.59, 122.76, 125.46, 133.61, 137.09, 138.03, 141.12, 142.21, 142.38, 142.43, 169.63, 173.03, 173.82. Anal. Calcd. for C23H20F4N2O6: C, 55.65; H, 4.06; N, 5.64. Found: C, 55.33; H, 3.96; N, 5.38.

reactant | 3-(3,4-bis-difluoromethoxy-phenyl)-3-[7-(cyclopropanecarbonyl-amino)-1-oxo-1,3-dihydro-isoindol-2-yl]-propionic acid methyl ester | 4 mmol, 2.0 g | COC(CC(N1C(C2=C(C=CC=C2C1)NC(=O)C1CC1)=O)C1=CC(=C(C=C1)OC(F)F)OC(F)F)=O | C24H22F4N2O6
reactant | NaOH | 10 N, 0.8 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | tetrahydrofurane | 20 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | 3-(3,4-bis-difluoromethoxy-phenyl)-3-[7-(cyclopropanecarbonyl-amino)-1-oxo-1,3-dihydro-isoindol-2-yl]-propionic acid | 1.4 g, 70% | FC(OC=1C=C(C=CC1OC(F)F)C(CC(=O)O)N1C(C2=C(C=CC=C2C1)NC(=O)C1CC1)=O)F | C23H20F4N2O6
